US06703422B2
A solution of 2,2,12,12-tetramethyl-6,8-dithiatridecane-1,13-dioic acid ethyl ester (7.16 g, 18.25 mmol) and sodium hydroxide (3.13 g, 76 mmol) in ethanol (40 mL) and deionized water (4 mL) was heated to reflux for 2 h. The ethanol was evaporated and the residue dissolved in water (30 mL) and extracted with diethyl ether (20 mL). The aqueous layer was acidified with 2 N hydrochloric acid to pH 2 and extracted with diethyl ether (2×20 mL). The combined organic layers were washed with saturated sodium chloride solution (15 mL), dried over MgSO4, and concentrated to give the crude product (4.79 g) as an oil, which solidified on standing. Recrystallization (hexanes/ethyl acetate=2/1) yielded 2,2,12,12-tetramethyl-6,8-dithiatridecane-1,13-dioic acid (2.9 g, 47%) as nice white needles. Mp.: 72.0-72.5° C.). 1H NMR (300 MHz, CDCl3/TMS): d (ppm): 11.55 (br, 2H), 3.65 (s, 2H), 2.62 (t, J=6.8 Hz, 4H), 1.70-1.51 (m, 8H), 1.21 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): d (ppm): 184.76, 41.99, 39.54, 35.20, 31.07, 24.87, 24.54. HRMS (HR, LSIMS, gly): Calcd. for C15H29O4S2 (MH+): 337.1507, found 337.1508. Anal. (C15H28O4S2) calcd. (found): C, 53.54 (53.38); H, 8.39 (8.26); S, 19.06 (19.29).

reactant | 2,2,12,12-tetramethyl-6,8-dithiatridecane-1,13-dioic acid ethyl ester | 18.25 mmol, 7.16 g | C(C)OC(C(CCCSCSCCCC(C(=O)O)(C)C)(C)C)=O | C17H32O4S2
reactant | sodium hydroxide | 76 mmol, 3.13 g | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
product | 2,2,12,12-tetramethyl-6,8-dithiatridecane-1,13-dioic acid | 2.9 g, 47% | CC(C(=O)O)(CCCSCSCCCC(C(=O)O)(C)C)C | C15H28O4S2
